US08138187B2
1-Benzyl-3-[2-(1H-indol-3-yl)-ethyl]-urea (Ind-100)
Tryptamine (1.04 g, 6.5 mmol) was dissolved in a mixture of acetone (20 ml) and triethylamine (1 ml) under a nitrogen atmosphere. Benzyl isocyanate (952 mg, 7.15 mmol, 0.88 ml) was swiftly added dropwise at 0° C. and the mixture was then subsequently stirred for 2 h, while cooling with ice, and at RT for 2 h. A subsequent TLC in chloroform/methanol 20:1 showed only small amounts still of tryptamine. The mixture was concentrated i. vac. The residue obtained was purified by flash chromatography with 100 g of silica gel and chloroform/methanol 20:1→9:1→4:1.

reactant | Tryptamine | 6.5 mmol, 1.04 g | NCCC1=CNC2=CC=CC=C12 | C10H12N2
reactant | Benzyl isocyanate | 7.15 mmol, 0.88 ml, 952 mg | C(C1=CC=CC=C1)N=C=O | C8H7NO
solvent | acetone | 20 ml | CC(=O)C | C3H6O
solvent | triethylamine | 1 ml | C(C)N(CC)CC | C6H15N
solvent | chloroform methanol | C(Cl)(Cl)Cl.CO
product | 1-Benzyl-3-[2-(1H-indol-3-yl)-ethyl]-urea | C(C1=CC=CC=C1)NC(=O)NCCC1=CNC2=CC=CC=C12 | C18H19N3O
